US08685991B2
Part A. Preparation of 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-one
A mixture of 5-bromo-2,3-dihydro-1H-inden-1-one (2.50 g, 11.85 mmol), bis(pinacolato) diboron (3.61 g, 14.21 mmol), potassium acetate (3.49 g, 35.5 mmol) and Combiphos Pd6 (178 mg, 0.36 mmol) in toluene (60 mL) was heated at reflux for 8 h. Cooled, diluted with EtOAc and extracted with water (2×) and washed with brine. Dried over Na2SO4 and stirred for 1 h with (3-mercaptopropyl) silica gel. Filtered and concentrated under vacuum to afford a yellow solid. Purification by silica gel column chromatography eluting with EtOAc/hexanes gave a yellow solid. Triturated with cold hexanes, filtered and dried under vacuum to give the title compound as a fine nearly white solid (1.99 g, 65%). A second crop of crystals (140 mg) was obtained from the mother liquors, bringing the yield to 70%.

reactant | 5-bromo-2,3-dihydro-1H-inden-1-one | 11.85 mmol, 2.50 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | bis(pinacolato) diboron | 14.21 mmol, 3.61 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 35.5 mmol, 3.49 g | C(C)(=O)[O-].[K+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-one | CC1(OB(OC1(C)C)C=1C=C2CCC(C2=CC1)=O)C | C15H19BO3
